US04780464
N-(4-Chloro-2-methoxyphenyl)-1-ethyl[1,2,4]triazolo [4,3-a]quinoxalin-4-amine
The title compound was prepared essentially as described in Example 2 substituting 4-chloro-1-ethyl [1,2,4]triazolo[4,3-a]quinoxaline and 2-methoxy-4-chlorobenzenamine for 4-chloro-1-methyl1,2,4]triazolo[4,3-a]quinoxaline and cyclopentanamine respectively; mp 245°-248° C.

reactant | 4-chloro-1-ethyl [1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CC | C11H9ClN4
reactant | 2-methoxy-4-chlorobenzenamine | COC1=C(C=CC(=C1)Cl)N | C7H8ClNO
reactant | cyclopentanamine | C1(CCCC1)N | C5H11N
product | N-(4-Chloro-2-methoxyphenyl)-1-ethyl[1,2,4]triazolo [4,3-a]quinoxalin-4-amine | ClC1=CC(=C(C=C1)NC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CC)OC | C18H16ClN5O
